US05030755
1-(2,2-Dimethoxyethoxy)-4-(2-ethoxyethyl)-2,3-dimethylbenzene
Grignard reaction was carried out in conventional manner from 5.0 g of 4-bromo-1-(2,2-dimethoxyethoxy)-2,3dimethylbenzene and 0.5 g of magnesium in 30 ml of tetrahydrofuran, and then 1.0 g of ethylene oxide was blown into the reaction mixture at 50° C. Further, the mixture was stirred at the same temperature for 2 hours. Tetrahydrofuran was removed under reduced pressure, and 50 ml of toluene and 50 ml of 1 N hydrochloric acid were added. The organic layer separated was washed with water, and then 5 ml of 20% sodium hydroxide, 4.0 g of diethylsulfate and 0.3 g of tetrabutylammonium chloride were added, followed by heating and stirring at 40° C. for 5 hours. After cooling, the toluene layer was washed with water, dried and then concentrated under reduced pressure The residual oil was purified by column chromatography (Wako Gel C-200, eluant: n-hexane ethyl acetate=10:1) to obtain 3.5 g of the title product.

reactant | 4-bromo-1-(2,2-dimethoxyethoxy)-2,3dimethylbenzene | 5.0 g | BrC1=C(C(=C(C=C1)OCC(OC)OC)C)C | C12H17BrO3
reactant | magnesium | 0.5 g | [Mg] | Mg
reactant | ethylene oxide | 1.0 g | C1CO1 | C2H4O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(2,2-Dimethoxyethoxy)-4-(2-ethoxyethyl)-2,3-dimethylbenzene | 3.5 g | COC(COC1=C(C(=C(C=C1)CCOCC)C)C)OC | C16H26O4
